US07622583B2
2-[5-Chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carbonyl]-benzoic acid
A mixture of 2-{5-Chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carbonyl}-benzoic acid (150 mg, 0.27 mmol) in 3 ml of 4M HCl in dioxane and 1 mL of water was refluxed for 2 hours. After cooling to room temperature the mixture was concentrated and then diluted with water. Sodium bicarbonate was added until pH was 6. The mixture was extracted with ethyl acetate, dried and concentrated. The residue was further purified via flash column (70% ethyl acetate in hexane) to afford 60 mg of title compound as an off white solid. MS: (M+H)/z =519.4.

reactant | 2-{5-Chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carbonyl}-benzoic acid | 0.27 mmol, 150 mg | ClC=1C=C(C(=NC1)C(=O)C1=C(C(=O)O)C=CC=C1)N(COC)S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C22H15Cl2F3N2O6S
reactant | water | 1 mL | O | H2O
solvent | HCl | 4M, 3 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[5-Chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carbonyl]-benzoic acid | 60 mg | ClC=1C=C(C(=NC1)C(=O)C1=C(C(=O)O)C=CC=C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C20H11Cl2F3N2O5S
